US06531491B1
To a solution of 6-iodo-1H-indazole (7.35 g, 30.1 mmol, 1 equiv) in THF (100 mL) cooled to 0° C. under argon, was added sodium t-butoxide (2.89 g, 30.1 mmol, 1 equiv). A color change from orange to red was observed. Mesitylenesulfonyl chloride (6.60 g, 30.1 mmol, 1 equiv) was added in one portion and the ice bath was removed allowing the reaction mixture to warm to 23° C. After 40 min the mixture was quenched with saturated ammonium chloride and partitioned between water and ethyl acetate. The aqueous was extracted a total of 3 times with ethyl acetate. The combined organic material was washed with brine, dried over sodium sulfate and concentrated under reduced pressure to give 6-iodo-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole as an orange solid (12.8 g, 100% yield, 2:1 mixture). 1H NMR (CDCl3) 8.51 (s, 1H), 7.95 (s, 0.66H, major isomer), 7.91 (s, 0.33H, minor isomer), 7.47 (d, 0.33H, J=8.4 Hz), 7.29 (d, 0.33H, J=8.4 Hz), 7.26 (d, 0.66H, J=8.9 Hz), 7.18 (d, 0.66H, 8.9 Hz), 6.84 (s, 2H), 2.51 (s, 6H), 2.15 (s, 3H).

reactant | 6-iodo-1H-indazole | 30.1 mmol, 7.35 g, 1 equiv | IC1=CC=C2C=NNC2=C1 | C7H5IN2
reactant | sodium t-butoxide | 30.1 mmol, 2.89 g, 1 equiv | CC(C)([O-])C.[Na+]
reactant | Mesitylenesulfonyl chloride | 30.1 mmol, 6.60 g, 1 equiv | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-iodo-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole | 100% yield | IC1=CC=C2C=NN(C2=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C16H15IN2O2S
